US06388146B1
First, 70 ml of water, 25 ml of concentrated sulfuric acid, and 25.0 g of 4-bromo-2-methylaniline were put in a 500 ml flask. After 60 g of ice was added, 30 ml of water containing 10.9 g of sodium nitrite dissolved therein was dropped in 25 minutes keeping the temperature at 5° C. or less. Another 100 ml of water, 100 g of ice, and 1 g of urea were added and the resultant mixture was left for 30 minutes. Then, 50 g of anhydrous sodium sulfate, 70 ml of concentrated sulfuric acid, and 33 ml of water were put in a 500 ml flask provided with a distiller, and heated to a temperature of 130° C. to 135° C. The former reaction solution was dropped into the resultant mixture, and phenol generating was distilled together with steam. Ether was added to the distilled solution for extraction. The resultant ether layer was washed with water and a sodium hydrogencarbonate aqueous solution. A 10% sodium hydroxide aqueous solution was further added for extraction. Then, 35 ml of concentrated hydrochloric acid was added to the resultant sodium hydroxide aqueous solution to acidify the solution, and ether was added for extraction. The resultant ether layer was washed with water and dried with anhydrous sodium sulfate. The solvent was then distilled off under decompression. The residue was distilled (b.p.: 135° C. to 139° C./8 mmHg) to obtain 17.48 g (Y: 69.7%) of 4-bromo-2-methylphenol. The purity of the resultant compound was 98.8% as measured by GC.

reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-bromo-2-methylaniline | 25.0 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | urea | 1 g | NC(=O)N | CH4N2O
reactant | sodium sulfate | 50 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | water | 33 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 30 ml, 10.9 g | O | H2O
solvent | water | 70 ml | O | H2O
product | 4-bromo-2-methylphenol | 17.48 g, 69.7% | BrC1=CC(=C(C=C1)O)C | C7H7BrO
